US07709645B2
To a cooled solution (−78° C.) of 3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-5-[1-(toluene-4-sulfonyl)-1H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine (458 mg, 0.765 mmol) in dry tetrahydrofuran (7 mL) was added 2.5 M n-butyl lithium (n-BuLi) (336 μL. 0.842 mmol) over 15 min. After 2 h at −78° C., a stream of carbon dioxide gas was added to the mixture for 5 min. The reaction was allowed to warm to room temperature. After stirring 3 h, the reaction was quenched by the addition of saturated ammonium chloride and extracted into ethyl acetate. The organic layer was dried over sodium sulfate and purified by flash chromatography on silica gel using a gradient of methanol in dichloromethane to afford 5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-(toluene-4-sulfonyl)-2H-pyrazole-3-carboxylic acid (114 mg, 23%). MS: m/z 643 (M+H+).

reactant | 3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-5-[1-(toluene-4-sulfonyl)-1H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 0.765 mmol, 458 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C2=NN(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=C(C=C2)C | C31H26N4O5S2
reactant | n-butyl lithium | 0.842 mmol, 2.5 M, 336 μL | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-(toluene-4-sulfonyl)-2H-pyrazole-3-carboxylic acid | 114 mg, 23% | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C=2C=C(N(N2)S(=O)(=O)C2=CC=C(C=C2)C)C(=O)O)S(=O)(=O)C2=CC=C(C=C2)C | C32H26N4O7S2
